US03982001
1-Phenethyl-4-propionyloxy-4-(3.4-methylene dioxy phenyl)-piperidine [Process variant c)]
3 g. 1-Phenethyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine are dissolved in 4.5 ml. pyridine and the solution obtained is mixed with 4.5 ml. propionic acid anhydride. The resultant mixture is heated for 3 hours on a stream bath, the reaction mixture is then freed from pyridine in a vacuum and the dark oil which remains is extracted twice with 30 ml. water each time. After this the oil is taken up in ether and the ether solution is washed with a 2N aqueous soda solution. The ether solution is then dried over potassium carbonate and evaporated. The residue obtained is mixed with some propanol and water and the mixture is adjusted to neutral with 3 ml. of a 2N hydrochloric acid. Acetone is added and after this the whole is evaporated twice to dryness. The acetone solution is finally mixed with ether during which time 1-phenethyl-4-propionyloxy-4-(3.4-methylene dioxy phenyl)-piperidine hydrochloride precipitates in the form of colourless crystals with a melting point of 180° - 181°C.

reactant | 1-Phenethyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine | C(CC1=CC=CC=C1)N1CCC(CC1)(C1=CC2=C(C=C1)OCO2)O | C20H23NO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | propionic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | Acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | propanol | C(CC)O | C3H8O
product | 1-Phenethyl-4-propionyloxy-4-(3.4-methylene dioxy phenyl)-piperidine | C(CC1=CC=CC=C1)N1CCC(CC1)(C1=CC2=C(C=C1)OCO2)OC(CC)=O | C23H27NO4
